*Sim of Lab3


*forces current values to be saved
.options savecurrents


*define diode
.model Default D


*voltage source n = 17
Vtrans 1 2 sin(0 20.90909090 50 0 0 90)


*envelope detector circuit
R1 3 0 8k
*is it 8k??
*are the values coherent with octave?
C 3 0 100u
*are the values coherent with octave?

D0 0 1 Default
D1 1 3 Default
D2 0 2 Default
D3 2 3 Default


*voltage regulator
R2 3 4 68.84k
*are the values coherent with octave?
D4 4 5 Default
D5 5 6 Default
D6 6 7 Default
D7 7 8 Default
D8 8 9 Default
D9 9 10 Default
D10 10 11 Default
D11 11 12 Default
D12 12 13 Default
D13 13 14 Default
D14 14 15 Default
D15 15 16 Default
D16 16 17 Default
D17 17 18 Default
D18 18 19 Default
D19 19 20 Default
D20 20 21 Default
D21 21 22 Default
D22 22 0 Default



*simulations
.control


*colours
set hcopypscolor=1
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0


*transient/circuit simulation
tran 0.000015 200e-3


*the rest
meas tran Vavg AVG v(4) from=0m to=100e-3
meas tran Vmax v(4) from=0m to=100e-3
meas tran Vmin MIN v(4) from=0m to=100e-3
print Vavg
print Vavg-Vmin

plot v(3)
hardcopy edc_output.ps v(3)

plot v(4)
hardcopy vr_output.ps v(4)

plot (v(4)-12)
hardcopy final.ps v(4)-12


quit
.endc
.end






